US07470689B2
d) 6-(2-Ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid
A mixture of 400 mg of ethyl 6-(2-ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydro-pyridazine-4-carboxylate, 2 ml of THF, 2 ml of water, 2 ml of methanol and 100 mg of lithium hydroxide is stirred at room temperature for 1 hour, and the volatile constituents are removed in vacuo. A pH of 4 is adjusted by dropwise addition of 2N hydrochloric acid, and the precipitate which has formed is filtered off with suction, stirred with 10 ml of isopropanol and filtered off with suction and dried.

reactant | ethyl 6-(2-ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydro-pyridazine-4-carboxylate | 400 mg | C(C)NC1=NC=CC(=N1)C=1C=C(C(NN1)=O)C(=O)OCC | C13H15N5O3
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | water | 2 ml | O | H2O
reactant | lithium hydroxide | 100 mg | [OH-].[Li+]
solvent | methanol | 2 ml | CO | CH4O
product | 6-(2-Ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | C(C)NC1=NC=CC(=N1)C=1C=C(C(NN1)=O)C(=O)O | C11H11N5O3
